US05958942
4,5-Dihydro-4[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one
A solution of 778 mg (2.0 mmol) of 5-ethoxycarbonylimidazo[1,2-a]pyridin-8-ylmethyl trimethylammonium iodide, 616 mg (2.4 mmol) of 4-trifluoromethanesulfonamido-1-butylamine and 1.12 ml (8.0 mmol) of triethylamine in 40 ml of acetonitrile was heated for 14 hours under reflux. The solvent was distilled off. To the residue was added chloroform, and washed with water. The aqueous layer was further extracted with chloroform. The chloroform layers were combined, and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was crystallized from chloroform. The crystalline product was collected by filtration, washed with chloroform and dried to afford 141 mg (18.8%, colorless crystals) of the desired compound.

reactant | 5-ethoxycarbonylimidazo[1,2-a]pyridin-8-ylmethyl trimethylammonium iodide | 2.0 mmol, 778 mg | [I-].C(C)OC(=O)C1=CC=C(C=2N1C=CN2)C[N+](C)(C)C
reactant | 4-trifluoromethanesulfonamido-1-butylamine | 2.4 mmol, 616 mg | FC(S(=O)(=O)NCCCCN)(F)F | C5H11F3N2O2S
reactant | triethylamine | 8.0 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylen-5-one | FC(S(=O)(=O)NCCCCN1CC2=CN=C3C=CC=C(C1=O)N32)(F)F | C14H15F3N4O3S
